US07368578B2
A mixture of ethyl 3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoate (10.00 g), 2N aqueous sodium hydroxide solution (40 mL), tetrahydrofuran (100 mL) and ethanol (40 mL) was stirred overnight at room temperature. The reaction mixture was acidified by adding hydrochloric acid and concentrated. The residue was extracted with a mixed solvent of ethyl acetate/tetrahydrofuran (1:1, v/v). The organic layer was washed successively with distilled water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from ethanol-diisopropyl ether to give 3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoic acid as a white solid (3.93 g, yield 44%). melting point: 219-220° C.

reactant | ethyl 3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoate | 10.00 g | COC=1C=C(C(=O)OCC)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C21H21NO5
reactant | sodium hydroxide | 2N, 40 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 3-methoxy-4-[(5-methyl-2-phenyl-1,3-oxazol-4-yl)methoxy]benzoic acid | 3.93 g, yield 44% | COC=1C=C(C(=O)O)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C19H17NO5
